US04327221
A. 4-(4-chlorophenyl)-2-mercapto-5-thiazole acetic acid, ethyl ester
50.0 g. (0.157 m.) 3-bromo-3-p-chlorobenzoylpropionic acid, ethyl ester and 17.5 g. (0.157 m.) ammonium dithiocarbamate in 500 ml. absolute ethanol are heated at gentle reflux for 5 hours. The reaction mixture is allowed to stand at room temperature overnight. The solid which results is dissolved in 800 ml. of methylene chloride and the solution is washed with 500 ml. of water. The methylene chloride layer is dried over anhydrous magnesium sulfate, and after removal of the methylene chloride the residual solid is recrystallized from ethanol. 39.2 g. (80% yield) of title product is obtained, m.p. 176°-178° C.

reactant | 3-bromo-3-p-chlorobenzoylpropionic acid, ethyl ester | BrC(CC(=O)OCC)C(C1=CC=C(C=C1)Cl)=O | C12H12BrClO3
reactant | ammonium dithiocarbamate | C(N)([S-])=S.[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-chlorophenyl)-2-mercapto-5-thiazole acetic acid, ethyl ester | 80% yield | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)OCC)S | C13H12ClNO2S2
